US08803420B2
2.1 g (5.7 mmol) of N-[2-(3-bromophenylamino)phenyl]benzamide was suspended in 30 mL of xylene. After the addition of 0.6 g (2.9 mmol) of p-toluenesulfonic acid monohydrate, the mixture was subjected to azeotropic dehydration under heat reflux for 3 hours. After allowing the reaction solution to cool, ethyl acetate, methylene chloride, and water were added to the reaction solution, and an insoluble component was removed by filtration. The organic phase was extracted from the mother filtrate, washed with water and a saturated sodium chloride solution, and dried over magnesium sulfate. The solvent was then evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 1-(3-bromophenyl)-2-phenyl-1H-benzimidazole.

reactant | N-[2-(3-bromophenylamino)phenyl]benzamide | 5.7 mmol, 2.1 g | BrC=1C=C(C=CC1)NC1=C(C=CC=C1)NC(C1=CC=CC=C1)=O | C19H15BrN2O
reactant | p-toluenesulfonic acid monohydrate | 2.9 mmol, 0.6 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | xylene | 30 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 1-(3-bromophenyl)-2-phenyl-1H-benzimidazole | BrC=1C=C(C=CC1)N1C(=NC2=C1C=CC=C2)C2=CC=CC=C2 | C19H13BrN2
